US06887890B2
2-(2-ethyl-1H-indol-3-yl)acetic acid
Reaction was conducted in the same manner as Reference Example 86, except that phenylhydrazine hydrochloride was used instead of 3-tolylhydrazine hydrochloride and 4-oxohexanoic acid was used instead of levulinic acid, to obtain the title compound (10% yield).

reactant | phenylhydrazine hydrochloride | Cl.C1(=CC=CC=C1)NN
reactant | 4-oxohexanoic acid | O=C(CCC(=O)O)CC | C6H10O3
product | 2-(2-ethyl-1H-indol-3-yl)acetic acid | 10% yield | C(C)C=1NC2=CC=CC=C2C1CC(=O)O | C12H13NO2
